US06180659B2
Synthesis of 7,8-dihydroxy-10,11-dihydrodibenz[b,f]oxepin-10-one (Compound 13)
A solution of bromine (0.96 g) in acetic acid (10 ml) was dropped into a solution of 3,4-dimethoxybenzaldehyde (1.0 g) in acetic acid (4 ml) and the mixture was stirred for three hours. Sodium thiosulfate was added to the reaction mixture, then sodium bicarbonate was added thereto and the mixture was filtered. The crude crystals collected by the filtration were recrystallized from chloroform-ether to give the title compound (0.83 g, 56%). The peaks of this compound in 1H-NMR (400 MHz, CDCl3) were as follows.

reactant | bromine | 0.96 g | BrBr | Br2
reactant | 3,4-dimethoxybenzaldehyde | 1.0 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | Sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 7,8-dihydroxy-10,11-dihydrodibenz[b,f]oxepin-10-one | 0.83 g, 56% | OC1=CC2=C(C(CC3=C(O2)C=CC=C3)=O)C=C1O | C14H10O4
